US07265225B2
E. Preparation of 6-bromo-4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline
To a mixture of (1.2 eq.) cesium carbonate and 1-[2-(6-bromo-quinolin-4-yl)-1-(6-methyl-pyridin-2-yl)-ethylideneamino]-pyrrolidin-2-one (33.3 g, 78.7 mmol) add 300 mL dry N,N-dimethylformamide. Stir the mixture 20 hours at 100° C. The mixture may turn dark during the reaction. Remove the N,N-dimethylformamide in vacuo. Partition the residue between water and methylene chloride. Extract the aqueous portion with additional methylene chloride. Filter the organic solutions through a 300 mL silica plug, eluting with 1.5 L methylene chloride, 1.5 L ethyl acetate and 1.5 L acetone. Combine the appropriate fractions and concentrate in vacuo. Collect the resulting precipitate by filtration to yield 22.7 g (71.2%) of the desired subtitled intermediate as an off-white solid.

reactant | cesium carbonate | 1.2 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-[2-(6-bromo-quinolin-4-yl)-1-(6-methyl-pyridin-2-yl)-ethylideneamino]-pyrrolidin-2-one | 78.7 mmol, 33.3 g | BrC=1C=C2C(=CC=NC2=CC1)CC(C1=NC(=CC=C1)C)=NN1C(CCC1)=O | C21H19BrN4O
solvent | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 6-bromo-4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline | 22.7 g, 71.2% | BrC=1C=C2C(=CC=NC2=CC1)C1=C2N(N=C1C1=NC(=CC=C1)C)CCC2 | C21H17BrN4
